Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
High blood sugars, labs showing acute on chronic kidney injury
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with a h/o renal transplant, CHF, AFib on 
Coumadin, DM who presented to the ED on ___ with 
hyperglycemia (600s) and worsening kidney function on routine 
tests at PCP. On ___, her blood glucose was 665, and her Hgb A1c 
was found to be 12.7. Her creatinine was 2.1, up from 1.4 in 
___ (most recent value). Had been taking her home 
Glipizide as prescribed. She had been urinating frequently and 
had a cold a few days prior to admission, but otherwise had no 
symptomatic complaints. 
 
Past Medical History:
ATRIAL FIBRILLATION  
CHRONIC KIDNEY DISEASE  
DIABETES TYPE II  
HYPERLIPIDEMIA  
HYPERTENSION  
GALLSTONE PANCREATITIS S/P SPHINCTEROTOMY  
S/P RENAL TRANSPANT  
SYSTOLIC CONGESTIVE HEART FAILURE EF ___  
SHINGLES - FOREHEAD  
DIABETES MELLITUS  
MITRAL REGURGITATION  
URINARY TRACT INFECTION  
RENAL TRANSPLANT ___  
BILATERAL NEPHRECTOMIES ___  
SPHINCTEROTOMY  
BREAST AUGMENTATION
 
Social History:
___
Family History:
Sister RENAL TRANSPLANT
Daughter POLYCYSTIC KIDNEYS
 
Physical Exam:
PHYSICAL EXAM upon admission:
Vitals:  97.4 PO, 160 / 55, 71, 20, 97 Ra 
Intake: 480, outs not recorded
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, slightly dry mucus membranes, 
oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Irregularly irregular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  

PHYSICAL EXAM upon discharge:
Vitals:  97.4 PO, 160 / 55, 71, 20, 97 Ra 
Intake: 480, outs not recorded
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, slightly dry mucus membranes, 
oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Irregularly irregular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
LABS UPON ADMISSION
___ 05:42PM BLOOD UreaN-46* Creat-2.1* Na-127* K-4.0 Cl-86* 
HCO3-22 AnGap-23*
___ 05:42PM BLOOD Glucose-665*
___ 05:42PM BLOOD WBC-7.9 RBC-3.54* Hgb-9.8* Hct-29.1* 
MCV-82 MCH-27.7 MCHC-33.7 RDW-14.1 RDWSD-41.6 Plt ___
___ 05:42PM BLOOD %HbA1c-12.7* eAG-318*

___ 12:15PM BLOOD Glucose-548* UreaN-47* Creat-1.9* Na-122* 
K-3.8 Cl-85* HCO3-21* AnGap-20
___ 12:15PM BLOOD WBC-11.2* RBC-3.64* Hgb-10.1* Hct-30.0* 
MCV-82 MCH-27.7 MCHC-33.7 RDW-14.1 RDWSD-41.8 Plt ___
___ 12:15PM BLOOD Neuts-90.2* Lymphs-6.1* Monos-2.1* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-10.14* AbsLymp-0.68* 
AbsMono-0.24 AbsEos-0.02* AbsBaso-0.02

LABS UPON DISCHARGE:
___ 11:19AM BLOOD Glucose-221* UreaN-42* Creat-1.8* Na-130* 
K-3.1* Cl-91* HCO3-22 AnGap-20
___ 05:56PM BLOOD Glucose-356* UreaN-43* Creat-1.9* Na-126* 
K-4.0 Cl-89* HCO3-23 AnGap-18
___ 11:19AM BLOOD WBC-11.4* RBC-3.64* Hgb-10.1* Hct-30.1* 
MCV-83 MCH-27.7 MCHC-33.6 RDW-14.1 RDWSD-41.7 Plt ___
___ 11:19AM BLOOD ___ PTT-35.5 ___

IMAGING:
RENAL US ___
IMPRESSION: 
1.  Patent renal transplant vasculature.
2.  Borderline to minimally elevated intrarenal resistive 
indices measuring up to 0.79 in the interpolar region.

CXR ___
IMPRESSION:  
Persistent small left and trace right pleural effusions and 
cardiomegaly.  No pulmonary edema.

 
Brief Hospital Course:
___ with a history of renal transplant, CHF, AFib on Coumadin, 
DM who was admitted on ___ after she was found to have 
hyperglycemia (600s) and worsening renal function on routine lab 
tests at PCP (Cr 2.1 on ___, up from most recent 1.4 on 
___.

# Hyperglycemia / T2DM: 
Pt presented with significant hyperglycemia with ___ and 
elevated serum osms (but not meeting criteria for HHS). Treated 
with insulin in ED and developed low K. Given her significantly 
elevated glucose and HbA1c, the patient requires insulin therapy 
for glucose control. ___ was consulted and recommended the 
following regimen: NPH 10 Units fixed dose in the morning and 
Humalog sliding scale at meals (see discharge paperwork for 
scale). Her electrolyte abnormalities resolved with repletion 
and intravenous fluids. Her home glipizide was held. 

# Acute on chronic kidney disease s/p renal transplant: She 
presented with Cr 2.1, though her Cr has been baseline 1.2-1.3 
for many years. Her acute presentation is likely due to 
hypovolemia in setting of hyperglycemia and gradual decline in 
kidney function. She was given intravenous fluids, and her 
creatinine was followed closely. Her Lasix and Losartan were 
held during admission due to her dehydration and ___. Her home 
cyclosporine, prednisone, and MMF were continued. Cr was not 
back to baseline upon discharge. Losartan and Lasix held at 
discharge.

# UTI: She was also found to have a urinalysis suggestive of 
UTI, culture pending. This infection likely developed in setting 
of acute on chronic hyperglycemia. Endorsed urinary sx. She was 
treated with ceftriaxone 1g IV once daily and transitioned to 
cefpoxodime 500mg twice a day for a 7 day course (last dose 
___. Urine cultures were pending at the time of discharge.

#Extensive discussions were had with patient and husband 
regarding discharge plan. We requested that the patient stay 
overnight given the elevated Cr, pending urine cultures, 
electrolyte abnormalities, and need for additional fluid 
repletion and patient education. Patient insisted on discharge 
and agreed to help ensure very close follow-up.

CHRONIC:
# A-fib
Continued home warfarin at 0.5 and 1mg alternating (note was 
just changed on ___ per ___ clinic because INR was high. 
Continued diltiazem, metoprolol and digoxin.

# CHF
ECHO ___ with normal regional/global systolic function. 
Mild-to-moderate mitral regurgitation. Moderate pulmonary 
hypertension. EF >55%. Per hx and exam, she was volume down. 
Lasix was held.

# Anxiety
Continued home lorazepam

# HTN
Losartan held in setting of ___. Furosemide held in setting of 
___.

# HLD
Continued home atorvastatin and zetia.

**TRANSITIONAL ISSUES**

NEW MEDICATIONS:
Insulin NPH 10 units at breakfast
Insulin sliding scale Humalog (see discharge medications)
Cefpodoxime 100 mg PO BID, end date ___

STOPPED MEDICATIONS:
Glipizide
Furosemide (Lasix)
Losartan

-Pt needs close f/u with PCP, ___, and ___. PCP is 
___. Discussed with patient and family
-Pt should have repeat labs on ___, chem 10 and INR. If her 
creatinine is improved and she does not appear hypovolemic, 
please restart her losartan and furosemide. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
2. Losartan Potassium 25 mg PO DAILY 
3. LORazepam 0.5 mg PO QHS:PRN anxiety 
4. Metoprolol Succinate XL 100 mg PO BID 
5. Diltiazem Extended-Release 120 mg PO DAILY 
6. Ezetimibe 10 mg PO DAILY 
7. Warfarin 1 mg PO EVERY OTHER DAY 
8. Atorvastatin 10 mg PO QPM 
9. CycloSPORINE (Neoral) MODIFIED 25 mg PO Q12H 
10. Mycophenolate Mofetil 250 mg PO BID 
11. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
12. Furosemide 60 mg PO BID 
13. Multivitamins 1 TAB PO DAILY 
14. GlipiZIDE XL 5 mg PO DAILY 
15. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
16. Warfarin 0.5 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 100 mg PO Q12H Duration: 10 Days 
RX *cefpodoxime 100 mg 1 tablet(s) by mouth twice per day Disp 
#*18 Tablet Refills:*0 
2.  NPH 10 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
3.  Atorvastatin 10 mg PO QPM  
4.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
5.  CycloSPORINE (Neoral) MODIFIED 25 mg PO Q12H  
6.  Diltiazem Extended-Release 120 mg PO DAILY  
7.  Ezetimibe 10 mg PO DAILY  
8.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY  
9.  LORazepam 0.5 mg PO QHS:PRN anxiety  
10.  Metoprolol Succinate XL 100 mg PO BID  
11.  Multivitamins 1 TAB PO DAILY  
12.  Mycophenolate Mofetil 250 mg PO BID  
13.  PredniSONE 5 mg PO DAILY  
14.  Warfarin 1 mg PO EVERY OTHER DAY  
15.  Warfarin 0.5 mg PO EVERY OTHER DAY  
16. HELD- Furosemide 60 mg PO BID  This medication was held. Do 
not restart Furosemide until you see your PCP or your kidney 
doctor
17. HELD- Losartan Potassium 25 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until you see your PCP 
or kidney doctor
18.Outpatient Lab Work
Chem 10, ___
fax to:
___, MD
___, MD
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
HYPERGLYCEMIA
Acute kidney injury on chronic kidney injury
Complicated urinary tract infection
Hyponatremia
Hypokalemia
SECONDARY DIAGNOSIS: 
Atrial fibrillation
Renal transplant
Congestive heart failure
Anxiety
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You came to the hospital because you had very high blood sugar 
and bloodwork showing that your kidneys were not working as 
well.

While you were in the hospital, you were given insulin and 
intravenous fluids. Your Lasix and Losartan medications were 
held because you were very dehydrated. Your electrolyte levels 
were abnormal, which were repleted. You were also found to have 
a urinary tract infection, which was treated with antibiotics. 

Since your blood sugars were so high, it is very important that 
you take insulin every day, as prescribed. When you leave the 
hospital, you will also need to continue taking antibiotics 
(cefpodoxime 100 mg PO twice per day for 10 days) with last dose 
on ___. 

NEW MEDICATIONS:
Insulin NPH 10 units at breakfast
Insulin sliding scale Humalog (see discharge medications)(we 
have provided you with a chart that)
Cefpodoxime 100 mg PO twice a day through ___

STOPPED MEDICATIONS:
Glipizide 
Furosemide (Lasix)
Losartan

MAKE AN APPOINTMENT WITH YOUR NEPHROLOGIST FOR WITHIN ONE WEEK - 
Dr. ___ AN APPOINTMENT WITH YOUR PRIMARY CARE DOCTOR - Call 
___
PLEASE ATTEND YOUR ___ APPOINTMENT

Please get your labs checked next ___.

It was a pleasure taking care of you.

Your ___ Team

 
Followup Instructions:
___